US06921759B2
Step 7: Preparation of 5-(1,1-dioxido-1,2-thiazinan-2-yl)-N-[4-fluoro-2-(methylsulfonyl)benzyl]-8-hydroxy-1,6-naphthyridine-7-carboxamide
To a slurry of methyl 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-1,6-naphthyridine-7-carboxylate (2.11 g, 6.26 mmol) in ethanol (30 mL) in a pressure flask was added 1-[4-fluoro-2-(methylsulfonyl)phenyl]methanaminium chloride followed by N,N,N-diisopropylethylamine (2.17 mL, 12.52 mmol). The pressure flask was purged with nitrogen and closed. The reaction was heated to 80 degrees C. for 16 hours. The reaction containing residual solids was cooled and determined to be incomplete by LCMS analysis. Added degassed DMF (10 mL) to solubilize the remaining solids, resealed the pressure tube and reheated to 80 degrees C. overnight. The reaction was cooled, transferred to a round bottom flask and reduced to a small volume in vacuo. The residue was partitioned between methylene chloride and saturated aqueous sodium bicarbonate. The organic layer was washed with water, dried over Na2SO4, filtered and reduced to a small volume in vacuo. The residue was crystallized via the addition of 5 mL of methanol. The crystals were filtered and dried in vacuo to afford the title compound.

reactant | methyl 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-1,6-naphthyridine-7-carboxylate | 6.26 mmol, 2.11 g | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)OC)O)=O | C14H15N3O5S
reactant | 1-[4-fluoro-2-(methylsulfonyl)phenyl]methanaminium chloride | [Cl-].FC1=CC(=C(C=C1)C[NH3+])S(=O)(=O)C
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-(1,1-dioxido-1,2-thiazinan-2-yl)-N-[4-fluoro-2-(methylsulfonyl)benzyl]-8-hydroxy-1,6-naphthyridine-7-carboxamide | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=C(C=C1)F)S(=O)(=O)C)O)=O | C21H21FN4O6S2
